US07435837B2
(±)-{[7-(2-methoxyphenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.041 g, 32%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2-methoxyphenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.17 g, 0.40 mmol) and methylamine (0.124 g, 4.0 mmol). mp 165-166° C.

reactant | (±)-[7-(2-methoxyphenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.40 mmol, 0.17 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)OC)C | C24H24O5S
reactant | methylamine | 4.0 mmol, 0.124 g | CN | CH5N
product | (±)-{[7-(2-methoxyphenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | COC1=C(C=CC=C1)C1=CC(=CC=2CC(OC21)CNC)C | C18H21NO2
